US08022222B2
Step F: Preparation of 4-(4-methoxybenzylthio)-5-bromo-N-(4-phenethylthiazol-2-yl)pyridine-2-amine:
1-(4-(4-methoxybenzylthio)-5-bromopyridin-2-yl)thiourea (3.0 g, 7.8 mmol) and 1-bromo-4-phenylbutan-2-one (1.77 g, 7.8 mmol) were diluted in EtOH (120 mL). Triethylamine (2.2 ml, 15.6 mmol) was added, and the solution was heated at 75° C. for 3 hours. The solution was cooled and concentrated to half the amount of solvent. The solid was filtered and rinsed with cold EtOH to provide the desired product (2.44 g, 61% yield) as a tan solid.

reactant | 1-(4-(4-methoxybenzylthio)-5-bromopyridin-2-yl)thiourea | 7.8 mmol, 3.0 g | COC1=CC=C(CSC2=CC(=NC=C2Br)NC(=S)N)C=C1 | C14H14BrN3OS2
reactant | 1-bromo-4-phenylbutan-2-one | 7.8 mmol, 1.77 g | BrCC(CCC1=CC=CC=C1)=O | C10H11BrO
reactant | Triethylamine | 15.6 mmol, 2.2 ml | C(C)N(CC)CC | C6H15N
solvent | EtOH | 120 mL | CCO | C2H6O
product | 4-(4-methoxybenzylthio)-5-bromo-N-(4-phenethylthiazol-2-yl)pyridine-2-amine | 2.44 g, 61% yield | COC1=CC=C(CSC2=CC(=NC=C2Br)NC=2SC=C(N2)CCC2=CC=CC=C2)C=C1 | C24H22BrN3OS2
